US04259969
Preparation Of 2-(2-Hydroxy-2-p-methylphenylethyl)-3,5,6-trimethylpyrazine
To a solution of phenyllithium in 150 milliliters 7:3 benzene-ether (0.1 mole) at 0° C. was slowly added a solution of 13.6 grams of tetramethylpyrazine (0.1 mole). The mixture was stirred at room temperature for 2 hours and heated under reflux for 1.5 hours. The mixture was cooled to 0° C., and a solution of 12.0 grams of p-tolualdehyde (0.1 mole) in 50 milliliters of ether was added dropwise. The reaction mixture was stirred at room temperature for 1 hour and then treated in the manner of Example I. The crude product was crystallized from ether to yield 10.7 grams of product (42%) as fine white needles, m.p. 99°-101° C.

reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | tetramethylpyrazine | 0.1 mole, 13.6 grams | CC1=C(N=C(C(=N1)C)C)C | C8H12N2
reactant | p-tolualdehyde | 0.1 mole, 12.0 grams | C1(=CC=C(C=C1)C=O)C | C8H8O
solvent | ether | 50 milliliters | CCOCC | C4H10O
product | 2-(2-Hydroxy-2-p-methylphenylethyl)-3,5,6-trimethylpyrazine | 10.7 grams, 42% | OC(CC1=NC(=C(N=C1C)C)C)C1=CC=C(C=C1)C | C16H20N2O
